US05364871
4N-Dioxanoic hydrogen chloride (10 ml) was added to a suspension of 4-(2-acetylaminomethylthiazol-4-yl)-2-aminothiazole (0.75 g) in methanol (30 ml). The mixture was stirred at room temperature for 40 minutes, and diisopropyl ether (50 ml) was added. The resulting precipitate was collected by filtration. Recrystallization from a mixture of methanol and dioxane afforded 4-(2-acetylaminomethylthiazol-4-yl)-2-aminothiazole hydrochloride (0.35 g).

reactant | hydrogen chloride | 10 ml | Cl | ClH
reactant | 4-(2-acetylaminomethylthiazol-4-yl)-2-aminothiazole | 0.75 g | C(C)(=O)NCC=1SC=C(N1)C=1N=C(SC1)N | C9H10N4OS2
reactant | diisopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 30 ml | CO | CH4O
product | 4-(2-acetylaminomethylthiazol-4-yl)-2-aminothiazole hydrochloride | 0.35 g | Cl.C(C)(=O)NCC=1SC=C(N1)C=1N=C(SC1)N | InChI=1S/C9H10N4OS2.ClH/c1-5(14)11-2-8-12-6(3-15-8)7-4-16-9(10)13-7;/h3-4H,2H2,1H3,(H2,10,13)(H,11,14);1H
